US08084484B2
h) 2-(3,4-Dihydro-3-oxo-2H-benzo[b][1,4]oxazin-6-yl)propanoic acid
Ethyl 2-(3,4-dihydro-3-oxo-2H-benzo[b][1,4]oxazin-6-yl)propanoate (63 mg, 0.253 mmol) in 90% aq. EtOH (4.5 mL) was added sodium hydroxide (50 mg, 1.25 mmol) at room temperature. The reaction mixture was stirred for 12 hours at 50° C. and cooled to room temperature. The mixture was added water (20 mL) and acidified with acetic acid. The mixture was extracted with methylene chloride. The organic layer was dried with MgSO4 and filtered. The filtrate was concentrated in vacuo.

reactant | Ethyl 2-(3,4-dihydro-3-oxo-2H-benzo[b][1,4]oxazin-6-yl)propanoate | 0.253 mmol, 63 mg | O=C1NC2=C(OC1)C=CC(=C2)C(C(=O)OCC)C | C13H15NO4
reactant | sodium hydroxide | 1.25 mmol, 50 mg | [OH-].[Na+]
reactant | water | 20 mL | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | EtOH | 4.5 mL | CCO | C2H6O
product | 2-(3,4-Dihydro-3-oxo-2H-benzo[b][1,4]oxazin-6-yl)propanoic acid | O=C1NC2=C(OC1)C=CC(=C2)C(C(=O)O)C | C11H11NO4
